US06486156B1
A mixture of 4-(4-fluorophenethyl)-3-methoxycarbonylbenzyl triphenylphosphonium bromide (27 g, 46 mmol), glycolaldehyde (7.2 g; 92 mmol), potassium carbonate (13 g; 92 mmol) and 18-crown-6 (0.2 g) in dichloromethane (300 ml) was stirred for 2 days at ambient temperature under argon atmosphere. After addition of distilled water and extraction, the solution was evaporated to dryness to give methyl 2-(4-fluorophenyl)-4-(3-hydroxyprop-1-en-1-yl)benzoate which was used in the next step without further purification.

reactant | 4-(4-fluorophenethyl)-3-methoxycarbonylbenzyl triphenylphosphonium bromide | 46 mmol, 27 g | [Br-].FC1=CC=C(CCC2=C(C=C(C[P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C=C2)C(=O)OC)C=C1
reactant | glycolaldehyde | 92 mmol, 7.2 g | C(CO)=O | C2H4O2
reactant | potassium carbonate | 92 mmol, 13 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 0.2 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | methyl 2-(4-fluorophenyl)-4-(3-hydroxyprop-1-en-1-yl)benzoate | FC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC(=C1)C=CCO | C17H15FO3
